US04537891
5-Bromo-2-(4-aminobutyl)-3-methylpyridine, (0.58 g) and 5-(3-methoxybenzyl)-2-methylthio-4-pyrimidone (0.51 g) were refluxed in pyridine (3 ml) for 3 hours. The pyridine was removed in vacuo. The residue was recrystallised from ethanol/water giving 2-[4-(5-bromo-3-methylpyrid-2-yl)butylamino]-5-(3-methoxybenzyl)-4-pyrimidone (0.60 g). Softens 65° C., melts 73° C.

reactant | 5-Bromo-2-(4-aminobutyl)-3-methylpyridine | 0.58 g | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
reactant | 5-(3-methoxybenzyl)-2-methylthio-4-pyrimidone | 0.51 g | COC=1C=C(CC=2C(NC(=NC2)SC)=O)C=CC1 | C13H14N2O2S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 2-[4-(5-bromo-3-methylpyrid-2-yl)butylamino]-5-(3-methoxybenzyl)-4-pyrimidone | 0.60 g | BrC=1C=C(C(=NC1)CCCCNC1=NC=C(C(N1)=O)CC1=CC(=CC=C1)OC)C | C22H25BrN4O2
